US09340547B2
2-Amino-4-chloropyrimidine-5-carbonitrile
To a solution of 2,4-dichloropyrimidine-5-carbonitrile (600 mg, 3.45 mmol) in dioxane (20 ml) was added a 0.5M solution of NH3 in dioxane (20 ml, 10 mmol) and the mixture stirred at room temperature for 4 h. A mixture of two isomers were obtained and separated by column chromatography using a mixture of hexane/ethyl acetate (from 0% to 45% of ethyl acetate). The title compound (304 mg, 56% yield) was found to be the less polar isomer.

reactant | 2,4-dichloropyrimidine-5-carbonitrile | 3.45 mmol, 600 mg | ClC1=NC=C(C(=N1)Cl)C#N | C5HCl2N3
reactant | NH3 | N | H3N
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 mmol, 20 ml | O1CCOCC1 | C4H8O2
product | 2-Amino-4-chloropyrimidine-5-carbonitrile | 304 mg, 56% yield | NC1=NC=C(C(=N1)Cl)C#N | C5H3ClN4
